US05459267
To a solution of alpha-methylstyrene (0.13 mL, 1 mmole)and methanol (0.05 mL, 1.1 mmole) in acetonitrile (10 mL) was added 1-hydroxyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (330 mg, 1.02 mmole 1.02 equ.) and the reaction stirred at room temperature for 24 h. The mixture was diluted with ether (2 mL), filtered through anhydrous MgSO4, and evaporated to afford 130 mg (85% yield) of 1-fluoro-2-methoxy-2-phenylpropane.

reactant | alpha-methylstyrene | 1 mmole, 0.13 mL | CC(=C)C1=CC=CC=C1 | C9H10
reactant | methanol | 1.1 mmole, 0.05 mL | CO | CH4O
reactant | 1-hydroxyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 1.02 mmole, 330 mg | F[B-](F)(F)F.F[B-](F)(F)F.O[N+]12CC[N+](CC1)(CC2)F
reactant | ether | 2 mL | CCOCC | C4H10O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-fluoro-2-methoxy-2-phenylpropane | 130 mg, 85% yield | FCC(C)(C1=CC=CC=C1)OC | C10H13FO
